US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-fluorophenol
Similarly prepared from 5-ethyl-N-[2-(3-fluoro-4-methoxyphenyl)ethyl]pyrimidin-2-amine and 4-trifluoromethyl benzyl bromide.

reactant | 5-ethyl-N-[2-(3-fluoro-4-methoxyphenyl)ethyl]pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCC1=CC(=C(C=C1)OC)F | C15H18FN3O
reactant | 4-trifluoromethyl benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-fluorophenol | C(C)C=1C=NC(=NC1)N(CCC1=CC(=C(C=C1)O)F)CC1=CC=C(C=C1)C(F)(F)F | C22H21F4N3O
